US07576211B2
Step E: Preparation of 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide
A mixture of ethyl 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxothieno[2,3-b]pyridine-5-carboxylate (0.1 g, 0.34 mmol), 3-(piperidin-1-yl)propan-1-amine (96 mg, 0.68 mmol) and toluene (15 mL) was heated at 100° C. for 2 h and cooled to room temperature. Solvent was removed under reduced pressure; the residue was purified on a silica gel flash chromatography column eluted with 3% methanol-dichloromethane to afford the title compound as a colorless oil (0.11 g, 83% yield). 1H NMR (400 MHz, CDCl3): δ 10.20 (br s, 1H), 7.38 (d, 1H), 6.95 (d, 1H), 3.92 (d, 2H), 3.49-3.44 (m, 2H), 2.90-2.78 (m, 6H), 2.40 (m, 1H), 2.20-1.38 (m, 8H), 1.00 (d, 6H); MS: m/e 392 (M+H+).

reactant | ethyl 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxothieno[2,3-b]pyridine-5-carboxylate | 0.34 mmol, 0.1 g | OC=1C2=C(N(C(C1C(=O)OCC)=O)CC(C)C)SC=C2 | C14H17NO4S
reactant | 3-(piperidin-1-yl)propan-1-amine | 0.68 mmol, 96 mg | N1(CCCCC1)CCCN | C8H18N2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxo-N-(3-(piperidin-1-yl)propyl)thieno[2,3-b]pyridine-5-carboxamide | 0.11 g, 83% yield | OC=1C2=C(N(C(C1C(=O)NCCCN1CCCCC1)=O)CC(C)C)SC=C2 | C20H29N3O3S
